US07642264B2
5-{3-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-pyrimidin-2-ylamine
The title compound was prepared from 2-(3-bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (example E.81) (0.20 g, 0.45 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.109 g, 0.49 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.160 g, 77%). MS (ISP) 461.2 [(M+H)+]; mp 260° C.

reactant | 2-(3-bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | 0.45 mmol, 0.20 g | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H10BrF6N
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 0.49 mmol, 0.109 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 5-{3-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-pyrimidin-2-ylamine | FC(C1=CC(=CC(=N1)C=1C=C(C=CC1)C=1C=NC(=NC1)N)C1=CC=C(C=C1)C(F)(F)F)(F)F | C23H14F6N4
